US04593101
In an apparatus idenntical to that used in Example 1, methylene chloride (25 cc) is introduced. A stream of phosgene is then passed through for 10 minutes at a temperature in the region of 20° C., in order to remove the water and ethanol present in the solvent used. The phosgene dissolved is removed by passing a stream of argon through the solution for 20 minutes at a temperature in the region of 40° C. N-Chloroformyl-3-(m-chloroanilino)propionic acid chloride (2 g; 7.13 mmol) is then added, while working under an atmosphere of argon at a temperature of 26° C. Anhydrous aluminum chloride (2.09 g) is then added in the course of 10 minutes, the temperature changing from 26° to 32° C. The reaction mixture then consists of a yellow liquid phase and a suspension. The mixture is left to react for 15 hours at a temperature in the region of 20° C., and the reaction mixture is then poured onto ice (25 g). The organic phase is separated by decantation. The aqueous phase is extracted with methylene chloride (4×25 cc). The combined organic extracts are washed with water (4×25 cc) and then dried over sodium sulphate. After filtration, the filtrate is concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 40° C. 1-Chloroformyl-7-chloro-1,2,3,4-tetrahydro-4-quinolinone (1.5 g), m.p. 150°-153° C., is thus obtained which, after recrystallisation in ethyl acetate, melts at 156° C.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | N-Chloroformyl-3-(m-chloroanilino)propionic acid chloride | 7.13 mmol, 2 g | ClC(=O)N(C1=CC(=CC=C1)Cl)CCC(=O)Cl | C10H8Cl3NO2
reactant | aluminum chloride | 2.09 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | 25 cc | C(Cl)Cl | CH2Cl2
product | 1-Chloroformyl-7-chloro-1,2,3,4-tetrahydro-4-quinolinone | 1.5 g | ClC(=O)N1CCC(C2=CC=C(C=C12)Cl)=O | C10H7Cl2NO2
